US07285563B2
5-(Hydroxymethyl)-2-(trifluoromethyl)pyrimidine
To an ice-bath cooled solution of 2-(trifluoromethyl)pyrimidine-5-carboxylic acid (Description 118; 2 g, 10.4 mmol) in anhydrous tetrahydrofuran (100 ml) was added dropwise borane tetrahydrofuran complex [1.0M solution in THF] (15.6 ml, 15.6 mmol), after complete addition the mixture was stirred at room temperature for 90 mins. The reaction was quenched by the careful addition of water (2 ml), followed by saturated aqueous K2CO3. The organic layer was separated, and the aqueous phase extracted with Et2O. The combined organics were then washed with water, saturated NaCl, dried over Na2SO4, filtered and evaporated to give the title compound (580 mg, 31%).

reactant | 2-(trifluoromethyl)pyrimidine-5-carboxylic acid | 10.4 mmol, 2 g | FC(C1=NC=C(C=N1)C(=O)O)(F)F | C6H3F3N2O2
reactant | borane tetrahydrofuran | 15.6 mmol, 1.0M, 15.6 ml | O1CCCC1.B
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-(Hydroxymethyl)-2-(trifluoromethyl)pyrimidine | 580 mg, 31% | OCC=1C=NC(=NC1)C(F)(F)F | C6H5F3N2O
